US08802697B2
To a solution of 6-(3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine (100 mg, 0.24 mmol) in ethanol (5 mL) and water (5 mL) was added iron powder (110 mg, 1.92 mmol) and ammonium chloride (100 mg, 1.920 mmol). The mixture was stirred at 100° C. for 1 hour, cooled to RT, filtered and concentrated. The residue was purified by Preparative HPLC to afford N1-(6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-6-methylbenzene-1,2-diamine (29.5 mg, 32%) as a yellow solid. MS (ES+) C22H21N5O2 requires: 387. found: 388 [M+H]+; 1H-NMR (500 MHz, DMSO-d6) δ ppm 9.30, 9.21 (br, br, 2H), 8.95 (s, 1H), 8.60 (d, 1H, J=3.0 Hz), 6.96-6.92 (m, 3H), 6.63 (d, 1H, J=5.5 Hz), 6.55 (t, 1H, J=2.0 Hz), 6.50-6.48 (m, 1H), 4.79 (s, 2H), 3.84 (s, 6H), 2.08 (s, 3H).

reactant | 6-(3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine | 0.24 mmol, 100 mg | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)NC2=C(C=CC=C2[N+](=O)[O-])C)N=C1 | C22H19N5O4
reactant | ammonium chloride | 1.920 mmol, 100 mg | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | iron | 1.92 mmol, 110 mg | [Fe] | Fe
product | N1-(6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-6-methylbenzene-1,2-diamine | 29.5 mg, 32% | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)NC=2C(=CC=CC2C)N)N=C1 | C22H21N5O2
